US04269838
Following the procedure of part A of Example 1, 9.56 g of piperazine is allowed to react with 10 g of p-methoxyphenyl glycidyl ether to obtain 7.5 g of N-[3-(4-methoxyphenoxy)-2-hydroxypropyl]-piperazine.

reactant | piperazine | 9.56 g | N1CCNCC1 | C4H10N2
reactant | p-methoxyphenyl glycidyl ether | 10 g | C(C1CO1)OC1=CC=C(C=C1)OC | C10H12O3
product | N-[3-(4-methoxyphenoxy)-2-hydroxypropyl]-piperazine | 7.5 g | COC1=CC=C(OCC(CN2CCNCC2)O)C=C1 | C14H22N2O3
